US08865726B2
To a solution of 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (5.30 g, 22.8 mmol) and (S)-4-isopropyloxazolidin-2-one (4.42 g, 34.2 mmol) in dry DMF (100 mL) at ambient temperature was added sodium hydride (0.821 g, 34.2 mmol) and the solution stirred for 12 hours. Saturated aqueous NH4Cl solution was added and the solids were collected by filtration. Purification of the crude material by column chromatography, eluting with 1% MeOH/dichloromethane afforded 5.30 g (71%) of (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one as a yellow solid. LCMS (APCI+) m/z 325, 327 [M+H]+.

reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 22.8 mmol, 5.30 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | (S)-4-isopropyloxazolidin-2-one | 34.2 mmol, 4.42 g | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | sodium hydride | 34.2 mmol, 0.821 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 5.30 g, 71% | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C12H13BrN4O2
